US05077312
High Pressure Liquid Chromatography of 100% Ethyl Ether Silicic Acid Chromatography Fraction
Approximately 3000 ng PDBU equivalent milk lipid (silicic acid chromatography 100% ethyl ether fraction) was dissolved in 800 μl acetone. The sample was then clarified by centrifugation at 1500 xg for 5 minutes prior to injection onto a 3.9 mm×30 cm fatty acid analysis column (Waters Associates, Inc.) that was temperature controlled to 37° C. The primary solvent was water and the secondary solvent was acetonitrile. The gradient conditions were 0 to 50% acetonitrile in 15 minutes, and then 50 to 100% acetonitrile in 1 hour at a constant solvent flow rate of 1 ml/min. U.V. absorbance was monitored at 260 mm. Following chromatography the fractions were assayed for PBIA as described. Storage of crude and purified milk lipid was as described for lipid from murine intestine.

reactant | PDBU | 3000 ng | CCCC(=O)O[C@@H]1[C@H]([C@]2([C@@H](C=C(C[C@]3([C@H]2C=C(C3=O)C)O)CO)[C@H]4[C@@]1(C4(C)C)OC(=O)CCC)O)C | C28H40O8
reactant | silicic acid | [Si](O)(O)(O)O | H4O4Si
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | acetone | 800 μl | CC(=O)C | C3H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl Ether Silicic Acid | [Si](O)(O)(O)O.C(C)OCC | InChI=1S/C4H10O.H4O4Si/c1-3-5-4-2;1-5(2,3)4/h3-4H2,1-2H3;1-4H
